US07662771B2
5-[5-(2-Hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester
Add boron tribromide (43 mL 43 mmol, 1.0 M solution in CH2Cl2) dropwise over 30 minutes to a stirred 0° C. solution of 5-[5-(2-methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester (5.20 g, 17.1 mmol) in CH2Cl2 (45 mL). Allow to warm to room temperature overnight. Add boron tribromide (17 mL, 17 mmol, 1.0 M solution in CH2Cl2) and stir at room temperature under N2. After 4 hours, add boron tribromide (17 mL, 17 mmol, 1.0 M solution in CH2Cl2) and stir at room temperature under N2. After 2 hours, quench via dropwise addition of ethanol (50 mL, absolute). Concentrate, dissolve residue in CHCl3, wash with saturated NaHCO3 solution (×2), dry over MgSO4 and concentrate to get 4.7 g of a tan solid. Adsorb on SiO2 and purify the residue by flash chromatography on silica gel eluting with 3-20% EtOAc/hexanes to afford the title compound (3.96 g, 80%). MS (IS) 290 (M+1)+.

reactant | boron tribromide | 43 mmol, 1.0 M, 43 mL | B(Br)(Br)Br | BBr3
reactant | 5-[5-(2-methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester | 17.1 mmol, 5.20 g | C(C)OC(CCCCC1=NOC(=C1)C1=C(C=CC=C1)OC)=O | C17H21NO4
reactant | boron tribromide | 17 mmol, 1.0 M, 17 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 17 mmol, 1.0 M, 17 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | 5-[5-(2-Hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester | 4.7 g | C(C)OC(CCCCC1=NOC(=C1)C1=C(C=CC=C1)O)=O | C16H19NO4
